US04873236
9-Chloro-5,11-dihydro-11-[[[2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethanamine in a yield of 22% of theory. Colourless crystals, m.p. 174°-175° C. (acetonitrile).

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | 2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethanamine | C(CC)N(CCCC1CCN(CC1)CCN)CCC | C16H35N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 9-Chloro-5,11-dihydro-11-[[[2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 22% | ClC1=CC2=C(C(NC3=C(N2C(=O)NCCN2CCC(CC2)CCCN(CCC)CCC)N=CC=C3)=O)C=C1 | C29H41ClN6O2
